US04619945
Ethyl 4-methoxy-2,3,6-trimethylcinnamate
A suspension of NaH (9.3 g, 50% dispersion in oil, 0.19 mol) in 150 mL of tetrahydrofuran (THF) was stirred in an ice bath under an atmosphere of nitrogen and triethyl phosphonoacetate (43.5 g, 0.19 mol) was added dropwise within 15 min. The mixture was stirred for 1 hr in the ice bath and a solution of 2,3,6-trimethyl-p-anisaldehyde (24.3 g, 0.14 mol) in 100 mL of THF was added. The resulting mixture was stirred at room temperature for 18 hrs and brine (250 mL) and ethyl acetate (250 mL) was added. The layers were separated; the organic layer was washed with brine and dried (Na2SO4). Removal of solvent in vacuo afforded 32.3 g of yellow oil. A small portion of this product was recrystallized from ethyl ether to give white powders: mp 42°-44° C.; MS(CI): 249(m+ +1), 203. The rest of the product was used in the reaction described in Example 3 without further purification.

reactant | NaH | 0.19 mol, 9.3 g | [H-].[Na+]
reactant | 2,3,6-trimethyl-p-anisaldehyde | 0.14 mol, 24.3 g | CC1=C(C=O)C(=CC(=C1C)OC)C | C11H14O2
reactant | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | THF | 100 mL | O1CCCC1 | C4H8O
solvent | brine | 250 mL | [Cl-].[Na+].O
product | Ethyl 4-methoxy-2,3,6-trimethylcinnamate | 32.3 g | COC1=C(C(=C(C=CC(=O)OCC)C(=C1)C)C)C | C15H20O3
